US05612377
A tube was charged with a stir bar, N-benzyloxy-N-(1-ethylpropyl)amine (2.0 g, 10.3 mmole), tetrahydrofuran (5 mL), triethylamine (4.31 mL), N-methyl-N-phenylcarbamoyl chloride (1.75 g, 10.3 mmole), and 4-dimethylaminopyridine (1 mg). The tube was flushed with nitrogen, sealed and then heated to 130° C. After 48 hours the reaction mixture was cooled to ambient temperature and concentrated under vacuum. The residue was purified by chromatography (silica gel; 9:1 hexanes:ethyl acetate) to provide 2.0 g of 1-benzyloxy-1-(1-ethylpropyl)-3-methyl-3-phenylurea.

reactant | N-benzyloxy-N-(1-ethylpropyl)amine | 10.3 mmole, 2.0 g | C(C1=CC=CC=C1)ONC(CC)CC | C12H19NO
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | N-methyl-N-phenylcarbamoyl chloride | 10.3 mmole, 1.75 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
catalyst | 4-dimethylaminopyridine | 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 4.31 mL | C(C)N(CC)CC | C6H15N
product | 1-benzyloxy-1-(1-ethylpropyl)-3-methyl-3-phenylurea | 2.0 g | C(C1=CC=CC=C1)ON(C(=O)N(C1=CC=CC=C1)C)C(CC)CC | C20H26N2O2
